US06949542B2
7,8-Difluoro-4-(3-pyridin-3-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from commercially available 4,5-difluoro-1,2-phenylendiamine (144 mg, 1.0 mmol) and 3-oxo-3-(3-pyridin-3-yl-phenyl)-propionic acid tert-butyl ester (Example K1) (297 mg, 1.0 mmol) in xylene (6 ml) under reflux conditions for 1.5 h according to the general procedure M. Obtained as an off-white solid (224 mg, 64%).

reactant | 4,5-difluoro-1,2-phenylendiamine | 1.0 mmol, 144 mg | FC1=CC(=C(C=C1F)N)N | C6H6F2N2
reactant | 3-oxo-3-(3-pyridin-3-yl-phenyl)-propionic acid tert-butyl ester | 1.0 mmol, 297 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O | C18H19NO3
solvent | xylene | 6 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7,8-Difluoro-4-(3-pyridin-3-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | FC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2C=NC=CC2)=O)C=C1F | C20H13F2N3O
